US08686004B2
Stage 2: N-({6-[1-(Pyridin-3-yl)-1H-pyrazol-4-yl]pyridin-2-yl}sulphonyl)acetamide
6-[1-(Pyridin-3-yl)-1H-pyrazol-4-yl]pyridin-2-sulphonamide (0.15 g, 0.44 mmol) was initially charged in acetonitrile (1.5 ml) under argon, and sodium hydride (0.026 g, 0.66 mmol, 60%) was added in portions. The reaction mixture was stirred at room temperature for 1 h, then acetyl chloride (0.052 g, 0.66 mmol) was added dropwise. The reaction mixture was stirred at 82° C. for 33 h and, after cooling, the solvent was removed under reduced pressure. The residue was taken up in saturated sodium hydrogencarbonate solution, dichloromethane was added and the precipitated solid was filtered off. The phases of the filtrate were separated; the aqueous phase was adjusted to pH 3 with hydrochloric acid and left to stand for 16 h. The precipitated crystals were filtered off with suction. Yield 0.02 g (12% of theory) of N-({6-[1-(pyridin-3-yl)-1H-pyrazol-4-yl]pyridin-2-yl}sulphonyl)acetamide.

reactant | 6-[1-(Pyridin-3-yl)-1H-pyrazol-4-yl]pyridin-2-sulphonamide | 0.44 mmol, 0.15 g | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)S(=O)(=O)N | C13H11N5O2S
reactant | sodium hydride | 0.66 mmol, 0.026 g | [H-].[Na+]
reactant | acetyl chloride | 0.66 mmol, 0.052 g | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | N-({6-[1-(Pyridin-3-yl)-1H-pyrazol-4-yl]pyridin-2-yl}sulphonyl)acetamide | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)S(=O)(=O)NC(C)=O | C15H13N5O3S
